US07482345B2
2-(2,4-difluorophenoxy)-5-[2-ethyl-5-(pyrrolidin-1-ylcarbonyl)phenyl]-6H-pyrido[1,2-b]pyridazin-6-one
2-(2,4-difluorophenoxy)-5-[5-(pyrrolidin-1-ylcarbonyl)-2-vinylphenyl]-6H-pyrido[1,2-b]pyridazin-6-one (14 mg, 0.03 mmol) was disolved in EtOAc (2 mL) and purged with nitrogen (3×). A catalytic amount of activated Pd on carbon was added and the system was purged with nitrogen (3×) and hydrogen (3×). The reaction was complete in 30 min and the reaction was filtered through celite and concentrated. The crude residue was purified via silica gel chromatography (EtOAc/CH2Cl2/MeOH).

reactant | 2-(2,4-difluorophenoxy)-5-[5-(pyrrolidin-1-ylcarbonyl)-2-vinylphenyl]-6H-pyrido[1,2-b]pyridazin-6-one | 0.03 mmol, 14 mg | FC1=C(OC=2C=CC=3N(N2)C=CC(C3C3=C(C=CC(=C3)C(=O)N3CCCC3)C=C)=O)C=CC(=C1)F | C27H21F2N3O3
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 2-(2,4-difluorophenoxy)-5-[2-ethyl-5-(pyrrolidin-1-ylcarbonyl)phenyl]-6H-pyrido[1,2-b]pyridazin-6-one | FC1=C(OC=2C=CC=3N(N2)C=CC(C3C3=C(C=CC(=C3)C(=O)N3CCCC3)CC)=O)C=CC(=C1)F | C27H23F2N3O3
